US05534529
N-[2-(3-Hydroxy-3-phenyl-1-propenyl)-6-methoxymethylphenyl]-2-(9H-xanthen-9-yl)acetamide (Compound No. 1-1443)
10 ml of a tetrahydrofuran suspension containing 152 mg (0.392 mmol) of N-(2-formyl-6-methoxymethylphenyl)-2-(9H-xanthen-9-yl)acetamide (prepared as described in Preparation 53), 199 mg (0.432 mmol) of phenacyltriphenylphosphonium bromide and 48 mg (0.471 mmol) of triethylamine was heated for 6 hours under reflux. At the end of this time, the mixture was allowed to return to room temperature. 4 ml of methanol were added, and then 155 mg (4.10 mmol) of sodium borohydride were gradually added to the mixture, which was then stirred for 1 hour. The reaction solution was then diluted with ethyl acetate, and washed several times with water. The solvent was removed by distillation under reduced pressure. The residue was subjected to column chromatography through 20 g of silica gel. Elution with a 4:1 by volume mixture of methylene chloride and ethyl acetate afforded 126 mg (yield 66%) of the title compound as crystals, melting at 204.5°-206.5° C. (after recrystallization from methanol).

reactant | N-(2-formyl-6-methoxymethylphenyl)-2-(9H-xanthen-9-yl)acetamide | 0.392 mmol, 152 mg | C(=O)C1=C(C(=CC=C1)COC)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C24H21NO4
reactant | phenacyltriphenylphosphonium bromide | 0.432 mmol, 199 mg | [Br-].C(C(=O)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | triethylamine | 0.471 mmol, 48 mg | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 4.10 mmol, 155 mg | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | methanol | 4 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-(3-Hydroxy-3-phenyl-1-propenyl)-6-methoxymethylphenyl]-2-(9H-xanthen-9-yl)acetamide | 126 mg, yield 66% | OC(C=CC1=C(C(=CC=C1)COC)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O)C1=CC=CC=C1 | C32H29NO4
